US04814346
As example 39, but using 7,8-dihydroxy-3-(3-chlorophenyl)-4H-1-benzopyran-4-one (1.2 g) instead of 6,7-dihydroxy-3-(3-methylphenyl)-4H-1-benzopyran-4-one. Tetrahydrofuran and acetic acid are used instead of dioxan/ethanol and sulphuric acid. The resulting oil crystallizes to give 3,4-dihydro-7,8-dihydroxy-3-(3-chlorophenyl)-2H-1-benzopyran, m.p. 99°-101°.

reactant | 7,8-dihydroxy-3-(3-chlorophenyl)-4H-1-benzopyran-4-one | 1.2 g | OC1=C(C2=C(C(C(=CO2)C2=CC(=CC=C2)Cl)=O)C=C1)O | C15H9ClO4
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dioxan ethanol | O1CCOCC1.C(C)O
product | 3,4-dihydro-7,8-dihydroxy-3-(3-chlorophenyl)-2H-1-benzopyran | OC1=C(C2=C(CC(CO2)C2=CC(=CC=C2)Cl)C=C1)O | C15H13ClO3
